US07414047B2
4-(4-Methyl-piperazine-1-carbonyl)-benzaldehyde
Prepared from N-methylpiperazine and 4-formylbenzoic acid.

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 4-formylbenzoic acid | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
product | 4-(4-Methyl-piperazine-1-carbonyl)-benzaldehyde | CN1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C13H16N2O2
